US05554630
4-Acetyl-1-(3-nitrophenyl)benzimidazole (3 g).
4-Acetylbenzimidazole (4.4 g, 27.5 mmol) was dissolved in dry DMSO (40 ml) and cooled. Sodium hydride (0.91 g, 80% suspension in oil) was added and the mixture was allowed to warm to room temperature. When the evolution of hydrogen had ceased 1-fluoro-3-nitrobenzene was added and the mixture was heated to 120° C. overnight. After cooling the reaction mixture was poured into ice-water and the crude product was filtered off. Purification was achieved by column chromatography on silica gel with ethyl acetate/petroleum ether (1:1) as the eluent. Yield 2.09 g, mp 175°-177° C.

reactant | 4-Acetylbenzimidazole | 27.5 mmol, 4.4 g | C(C)(=O)C1=CC=CC=2N=CNC21 | C9H8N2O
reactant | Sodium hydride | 0.91 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-fluoro-3-nitrobenzene | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | 4-Acetyl-1-(3-nitrophenyl)benzimidazole | C(C)(=O)C1=CC=CC=2N(C=NC21)C2=CC(=CC=C2)[N+](=O)[O-] | C15H11N3O3
